US06258961B1
[2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile
104 g (1 mol) of sodium bisulfite is dissolved in the mixture of 900 ml of water and 250 mol of ethanol and to the solution 140.6 g (1 mol) o-chlorobenzaldehyde is added. After a few minutes the aldehyde bisulfite adduct precipitates in the form of white crystals, while the temperature increases to 40° C. After 1 hour of stirring 127.2 g (1 mol) of 2-(2-thienyl)ethylamine is added to the reaction mixture, then it was stirred at 50° C. for 2 hours. During this time the crystalline aldehyde bisulfite transforms into an oily material. The mixture is cooled to room temperature and the solution of 49 g (1 mol) of sodium cyanide in 100 ml of water is added to it. During the addition, the temperature of the reaction mixture increases to 40° C. The mixture is then stirred at 60° C. Till the reaction is completed (1 hour). The oily organic phase is then extracted with 400 ml of 1,2-dichloroethane, washed to cyanide-free with 2×200 ml of water. Traces of 2-(2-thienyl)ethylamine are removed by treatment with 100 ml of 3% hydrochloric acid solution. The dichloroethane phase was dried over anhydrous sodium sulfate and evaporated in vacuo. The residual fast crystallizing oil is the product. Weight: 260 g (94%) mp.: 40-41° C. The product was identified by elemental analysis, IR spectrum and 1H-NMR investigation.

reactant | sodium bisulfite | 1 mol, 104 g | S([O-])(O)=O.[Na+]
reactant | ethanol | 250 mol | C(C)O | C2H6O
reactant | o-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 2-(2-thienyl)ethylamine | 1 mol, 127.2 g | S1C(=CC=C1)CCN | C6H9NS
reactant | sodium cyanide | 1 mol, 49 g | [C-]#N.[Na+]
solvent | water | 900 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | [2-(2-thienyl)ethylamino](2-chlorophenyl)acetonitrile | S1C(=CC=C1)CCNC(C#N)C1=C(C=CC=C1)Cl | C14H13ClN2S
